US08729068B2
To a mixture of 54.0 g of methyl 4-(2-{4-[(cyanoacetyl)amino]phenyl}ethyl)benzoate, 50.0 mL of cyclohexanone, and 300 mL of toluene was added dropwise 15.0 mL of morpholine at room temperature. In a reaction apparatus to which a Dean-Stark type dehydration tube was attached, the reaction mixture was stirred at 120° C. for 3 hours. Subsequently, the reaction mixture was further heated to reflux and stirred for 1 hour. The reaction mixture was cooled to room temperature and then concentrated under reduced pressure. To the residue was further added 200 mL of diisopropyl ether, followed by stirring for 14 hours. The precipitated solid was collected by filtration to obtain 53.2 g of methyl 4-[2-(4-{[cyano(cyclohexylidene)acetyl]amino}phenyl)ethyl]benzoate as a beige solid. ESI+: 403

reactant | methyl 4-(2-{4-[(cyanoacetyl)amino]phenyl}ethyl)benzoate | 54.0 g | C(#N)CC(=O)NC1=CC=C(C=C1)CCC1=CC=C(C(=O)OC)C=C1 | C19H18N2O3
reactant | cyclohexanone | 50.0 mL | C1(CCCCC1)=O | C6H10O
reactant | morpholine | 15.0 mL | N1CCOCC1 | C4H9NO
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 4-[2-(4-{[cyano(cyclohexylidene)acetyl]amino}phenyl)ethyl]benzoate | 53.2 g | C(#N)C(C(=O)NC1=CC=C(C=C1)CCC1=CC=C(C(=O)OC)C=C1)=C1CCCCC1 | C25H26N2O3
